US09403797B2
N-Chlorosuccinimide (0.623 g, 4.67 mmol) was added to 2-chloro-N-methyl-pyridin-4-amine (0.50 g, 3.89 mmol) and potassium acetate (0.763 g, 7.78 mmol) in AcOH (25 mL) and the mixture was stirred at 80° C. for 1.25 hours. The mixture was cooled and concentrated in vacuo. The concentrated mixture was diluted with water, neutralised with aqueous NaOH and extracted with EtOAc (×3). The organic extracts were evaporated onto silica gel. Gradient chromatography, eluting with 10-50% EtOAc:c-Hex, gave 2,5-dichloro-N-methylpyridin-4-amine (0.114 g, 0.699 mmol, 18% yield).

reactant | N-Chlorosuccinimide | 4.67 mmol, 0.623 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-chloro-N-methyl-pyridin-4-amine | 3.89 mmol, 0.50 g | ClC1=NC=CC(=C1)NC | C6H7ClN2
reactant | potassium acetate | 7.78 mmol, 0.763 g | C(C)(=O)[O-].[K+]
solvent | AcOH | 25 mL | CC(=O)O | C2H4O2
product | 2,5-dichloro-N-methylpyridin-4-amine | 0.699 mmol, 0.114 g, 18% yield | ClC1=NC=C(C(=C1)NC)Cl | C6H6Cl2N2
